US07368578B2
A mixture of ethyl 1-(4-chloromethyl-5-methyl-1,3-thiazol-2-yl)piperidine-4-carboxylate (1.48 g), vanillin (0.75 g), anhydrous potassium carbonate (0.68 g) and N,N-dimethylformamide (50 mL) was stirred at 90° C. for 2 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:3, v/v) to give ethyl 1-{4-[(4-formyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-thiazol-2-yl}piperidine-4-carboxylate as colorless crystals (1.70 g, yield 83%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 97-98° C.

reactant | ethyl 1-(4-chloromethyl-5-methyl-1,3-thiazol-2-yl)piperidine-4-carboxylate | 1.48 g | ClCC=1N=C(SC1C)N1CCC(CC1)C(=O)OCC | C13H19ClN2O2S
reactant | vanillin | 0.75 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | potassium carbonate | 0.68 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | ethyl 1-{4-[(4-formyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-thiazol-2-yl}piperidine-4-carboxylate | 1.70 g, yield 83% | C(=O)C1=CC(=C(OCC=2N=C(SC2C)N2CCC(CC2)C(=O)OCC)C=C1)OC | C21H26N2O5S
